US03953500
To 200 ml. of ethanol is added 10.9 g. of ethyl 1,2,3,4-tetrahydro-1-oxo-5-naphthoate and while the solution is stirred at room temperature, 950 mg. of sodium borohydride is added. The mixture is stirred for 4 hours, after which 2 ml. of acetone is added. The mixture is further stirred for 30 minutes and, then, the solvent is distilled off under reduced pressure. Following the addition of 30 ml. of 2N hydrochloric acid, the residue is extracted with ethyl ether. The organic layer is washed with water and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the oily residue is purified by column chromatography on silica gel(100 g. silica gel; eluted with chloroform). The described procedure gives ethyl 1-hydroxy-1,2,3,4-tetrahydro-5-naphthoate as an oily product.

reactant | ethanol | C(C)O | C2H6O
reactant | ethyl 1,2,3,4-tetrahydro-1-oxo-5-naphthoate | O=C1CCCC=2C(=CC=CC12)C(=O)OCC | C13H14O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 1-hydroxy-1,2,3,4-tetrahydro-5-naphthoate | OC1CCCC=2C(=CC=CC12)C(=O)OCC | C13H16O3
